US05449518
a) Preparation of 6-(2,5-dihydroxy-4-methoxy-phenyl)-6-oxohexanoic acid
Seven grams of 2-methoxyhydroquinone and 13.6 g of the monomethyl ester of adipic acid in 60 ml of dichloroethane are mixed under nitrogen in a three-necked flask. Thirteen milliliters of boron trifluoride etherate is run in at room temperature. After five hours of refluxing, the reaction medium is poured into a mixture of 40 g of sodium acetate trihydrate and 100 ml of water. The product is extracted with 500 ml of ethyl acetate, washed, dried, and concentrated under vacuum. The residue is treated with a mixture of 1.4 ml of concentrated sulfuric acid, 14 ml of water, and 40 ml of acetic acid at 80° C. for three hours, then the solution is poured into 100 ml of ice water. The precipitate is filtered, washed several times with 20 ml of water, and dried. The solid is recrystallized from a mixture of ethyl acetate and isopropyl ether, yielding yellow crystals with the following characteristics:

reactant | 2-methoxyhydroquinone | Seven grams | COC1=C(O)C=CC(=C1)O | C7H8O3
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | boron trifluoride etherate | Thirteen milliliters | B(F)(F)F.CCOCC
reactant | sodium acetate trihydrate | 40 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 100 ml | O | H2O
product | 6-(2,5-dihydroxy-4-methoxy-phenyl)-6-oxohexanoic acid | OC1=C(C=C(C(=C1)OC)O)C(CCCCC(=O)O)=O | C13H16O6
